US05543352
The concentration of nickel in the acetate solution is practically 1 ppm or more, preferably, 10 ppm or higher. In case of using a nonpolar solvent such as toluene for obtaining a solution of 2-ethyl hexanoic acid nickel, the oxide 13 is unnecessary and the solution can be directly formed on the amorphous silicon film.

reactant | nickel | [Ni] | Ni
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | acetate | C(C)(=O)[O-]
product | 2-ethyl hexanoic acid nickel | [Ni].C(C)C(C(=O)O)CCCC | InChI=1S/C8H16O2.Ni/c1-3-5-6-7(4-2)8(9)10;/h7H,3-6H2,1-2H3,(H,9,10);
